US06579872B1
N-[2-chloro-5-(4-cyanobenzamido)phenyl]-4-[2-(imidazol-1-yl)ethoxy]benzamide
Using an analogous procedure to that described in Example 14, N-(3-amino-4-chlorophenyl)-4-cyanobenzamide was reacted with 4-[2-(imidazol-1-yl)ethoxy]benzoic acid (J. Med. Chem., 1985, 28, 1427) to give the title compound in 75% yield; NMR Spectrum: (DMSOd6) 4.48 (t, 2H), 4.65 (m, 2H), 7.09 (d, 1H), 7.51 (d, 1H), 7.68 (m, 3H), 7.82 (s, 1H), 8.0 (m, 4H), 8.1 (m, 2H), 8.73 (d, 1H), 9.18 (s, 1H), 9.89 (s, 1H), 10.66 (s, 1H); Mass Spectrum: M−H− 484.

reactant | N-(3-amino-4-chlorophenyl)-4-cyanobenzamide | NC=1C=C(C=CC1Cl)NC(C1=CC=C(C=C1)C#N)=O | C14H10ClN3O
reactant | 4-[2-(imidazol-1-yl)ethoxy]benzoic acid | N1(C=NC=C1)CCOC1=CC=C(C(=O)O)C=C1 | C12H12N2O3
product | N-[2-chloro-5-(4-cyanobenzamido)phenyl]-4-[2-(imidazol-1-yl)ethoxy]benzamide | 75% yield | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O)NC(C1=CC=C(C=C1)OCCN1C=NC=C1)=O | C26H20ClN5O3
